US05453220
1,2-Didodecanoxy-4-nitrobenzene (10 g, 20.4 mmol) was then dissolved in ethanol (100 ml) , followed by addition of hydrazine (4ml) and graphite (8 g). The mixture was then refluxed for 24 hours and filtered. The filtrate was given a hexane/water work-up and the hexane fraction was dried over MgSO4 and evaporated to produce 1,2-didodecanoxy-4-amino benzene as white solid (8.9 g, 95%). 1H NMR (CDCl3) d 7.02(s, Ph, 1H) 6.96 (d, Ph, 1H), 6.69 (d, Ph, 1H), 3.97 (m, OCH2, 4H), 2.0-0.8 (m, alkyl ).

reactant | 1,2-Didodecanoxy-4-nitrobenzene | 20.4 mmol, 10 g | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)[N+](=O)[O-])OCCCCCCCCCCCC | C30H53NO4
reactant | hydrazine | 4ml | NN | H4N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,2-didodecanoxy-4-amino benzene | 8.9 g, 95% | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)N)OCCCCCCCCCCCC | C30H55NO2
